US07674807B2
A mixture of 5-fluoro-2-nitrotoluene (2.33 g), 4-iodo-1H-pyrazole (2.91 g) and potassium carbonate (2.49 g) was heated and stirred in DMF (30 ml) at 140° C. for 4 hours. After cooling to room temperature, the reaction mixture was poured into ice water to separate out crystals. The obtained crystals were filtered, washed with water and dried, and 4-iodo-1-(3-methyl-4-nitrophenyl)-1H-pyrazole (4.60 g) was obtained.

reactant | 5-fluoro-2-nitrotoluene | 2.33 g | FC=1C=CC(=C(C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | 4-iodo-1H-pyrazole | 2.91 g | IC=1C=NNC1 | C3H3IN2
reactant | potassium carbonate | 2.49 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 4-iodo-1-(3-methyl-4-nitrophenyl)-1H-pyrazole | 4.60 g | IC=1C=NN(C1)C1=CC(=C(C=C1)[N+](=O)[O-])C | C10H8IN3O2
